US05478842
Using an analogous procedure to that described in Example 26 except that NMP was used in place of DMF as reaction solvent, 5-mercapto-1-methylindolin-2-one was reacted with (2S,4R)-4-(2-chlorothiazol-5-yl)-4-hydroxy-2-methyltetrahydropyran to give (2S,4R)-4-hydroxy-2-methyl-4-[2-(1-methyl-2-oxoindolin-5-ylthio)thiazol-5-yl]tetrahydropyran in 27% yield, m.p. 140° C.;

reactant | 5-mercapto-1-methylindolin-2-one | SC=1C=C2CC(N(C2=CC1)C)=O | C9H9NOS
reactant | (2S,4R)-4-(2-chlorothiazol-5-yl)-4-hydroxy-2-methyltetrahydropyran | ClC=1SC(=CN1)[C@@]1(C[C@@H](OCC1)C)O | C9H12ClNO2S
solvent | NMP | CN1CCCC1=O | C5H9NO
product | (2S,4R)-4-hydroxy-2-methyl-4-[2-(1-methyl-2-oxoindolin-5-ylthio)thiazol-5-yl]tetrahydropyran | 27% yield | O[C@]1(C[C@@H](OCC1)C)C1=CN=C(S1)SC=1C=C2CC(N(C2=CC1)C)=O | C18H20N2O3S2
